US06881733B1
A solution of 11.4 gm (39.1 mMol) 8-benzyl-8-azaspiro[4,5]decane-6-carboxylic acid methyl ester in 150 mL tetrahydrofuran was treated dropwise with a solution of 58 mL (58 mMol) lithium aluminum hydride (1.0 M in tetrahydrofuran). The reaction mixture was heated at reflux for 4 hours and was then cooled in an ice bath. The mixture was then diluted with ethyl acetate and treated dropwise with 100 mL 1N hydrochloric acid. The pH of the solution was then adjusted to about 8 with 5N sodium hydroxide and the mixture was extracted well with dichloromethane. The organic phases were combined, dried over magnesium sulfate and concentrated under reduced pressure to provide 6-hydroxymethyl-8-benzyl-8-azaspiro[4,5]decane.

reactant | 8-benzyl-8-azaspiro[4,5]decane-6-carboxylic acid methyl ester | 39.1 mMol, 11.4 gm | COC(=O)C1C2(CCCC2)CCN(C1)CC1=CC=CC=C1 | C18H25NO2
reactant | lithium aluminum hydride | 58 mMol, 1.0 M, 58 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | hydrochloric acid | 1N, 100 mL | Cl | ClH
reactant | sodium hydroxide | 5N | [OH-].[Na+]
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-hydroxymethyl-8-benzyl-8-azaspiro[4,5]decane | OCC1C2(CCCC2)CCN(C1)CC1=CC=CC=C1 | C17H25NO
